* C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\final_ari.asc
R3 N002 N001 12k
R4 N001 N005 10k
R6 N005 N006 10k
R7 N006 N007 12k
R1 N003 N002 1k
R2 Vout N003 10k
R8 N004 N007 1k
R9 N008 N004 10k
R5 N005 Vfeed 10k
V1 +Vcc 0 15
V2 0 -Vcc 15
XU1 N004 N003 +Vcc -Vcc Vout TL084
XU2 N008 0 +Vcc -Vcc Vfeed TL084
XU3 0 N006 +Vcc -Vcc N007 TL084
XU4 V1 N001 +Vcc -Vcc N002 TL084
V3 v1 0 SINE(0 1 1K) AC .2
.ac dec 100000 100 10000meg
.inc opamp.sub
.inc C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.backanno
.end
