* C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\final_ari.asc
R3 N002 N001 12k
R4 N001 N005 1k
R6 N005 N006 1k
R7 N006 N008 12k
R1 N003 N002 1k
R2 Vout N003 10k
R8 N004 N008 1k
R9 N009 N004 10k
R5 N005 Vfeed 10k
V1 +Vcc 0 10
V2 0 -Vcc 10
V3 v2 0 SINE(0 0.1 1K) AC 0.1
XU1 N001 v2 N002 opamp Aol=1000000K GBW=1000Meg
XU2 N006 v2 N008 opamp Aol=1000000K GBW=1000Meg
XU3 0 N009 Vfeed opamp Aol=1000000K GBW=1000Meg
XU4 N003 N004 Vout opamp Aol=200K GBW=3Meg
.ac dec 100000 100 10000meg
.inc opamp.sub
.inc C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.backanno
.end
